datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]23CCC(CC2)CC3)[C:22](C)=[O:23])[CH:43]=[CH:44]1.C[C:11](=[CH2:10])[C:62](C)=[CH2:63]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C+:11](C)[C:62](C)=[CH2:63])[C:21](C[N+]23CCC(CC2)CC3)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;20,21=21,22;22,23=23"
C/[N:10]=C/C1=CC=CC=C1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>C/[N+:10](=C/C1=CC=CC=C1)[CH:20]([C:31]12C3[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10=20
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si:11]([H:10])([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1 10,11=10,20"
"CC1(C)C[C:61](=[O:62])[CH-:10][C:71](=[O:72])C1.N#C[C:20]1=[C:21](C#N)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>CC1(C)C[C:61](=[O:62])[CH:10]([C:20]2(C#N)[C:21](C#N)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]2=[O:33])[C:71](=[O:72])C1 10=20;20,21=21,22;22,23=23"
C[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O-:10])=[CH:62]1.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>C[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O:10][CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)=[CH:62]1 10=20
"C1CCCC[C:11](=[CH2:10])CCC1.COC12C3C[CH:20]4C5C1[Fe-2:21]3524(C#[O+])(C#[O+])C#[O+]>>COC12C3C[CH:20]([CH2:10][C+:11]4CCCCCCCC4)C4C1[Fe-3:21]342(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21"
"CC(C)(C)[C:11](=[CH2:10])[O:12][Si:63](C)(C)C.CC[O:33][C:22](/[CH:21]=[CH:20]/C)=[O:23]>>CC[O:33][C:22](=[CH:21][CH:20](C)[CH2:10][C:11](C(C)(C)C)=[O+:12][Si:63](C)(C)C)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]/[N:12]1CCOCC1.C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>C[CH:10]([CH:11]=[N+:12]1CCOCC1)[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1 10,11=10,20;12=11,12"
"Br[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.[O-][C:62]([CH:61]1CCC[NH:10]1)=[O:63]>>[O-][C:62]([CH:61]1CCC[NH+:10]1[CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](Br)[CH:45]=[CH:46]1)=[O:63] 10=20;20,21=21,22;22,23=23"
CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.[N-:10]1[CH:61]=[N:62][C:72]([CH:73]=[O:74])=[CH:71]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[CH:61]=[N:62][C:72]([CH:73]=[O:74])=[CH:71]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10=20
"C1=CC=C([C:23]2=[CH:22][C:21](=[CH:20][C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[CH:32]=[C:33](C3=CC=CC=C3)[C:24]2=[O:25])C=C1.C[C:11]1=[CH:10][CH:61]=[CH:62][C:13]([O:14]C)=[CH:12]1>>C[C:11]1=[CH:12][C:13](=[O+:14]C)[CH:62]=[CH:61][CH:10]1[CH:20]([C:21]1=[CH:22][C:23](C2=CC=CC=C2)=[C:24]([O-:25])[C:33](C2=CC=CC=C2)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23,24;24,25=25"
"CC1=CC=[C:10]([B-:11]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25]>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)=[O+:12]1.CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([C:10]2=CC=C(C)S2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC2=C(C=C1)[S:42](=[O:43])(=[O:44])[C:21](=[CH:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[S:32]2(=[O:33])=[O:34].CN(C)[C:62]([C@@H:61]1CCC[NH:10]1)=[O:63]>>CN(C)[C:62]([C@@H:61]1CCC[NH+:10]1[CH:20]([C-:21]1[S:32](=[O:33])(=[O:34])C2=C(C=CC=C2)[S:42]1(=[O:43])=[O:44])[C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)=[O:63] 10=20;20,21=21"
"CC[N:82](CC)[C:71]([CH-:10][N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)=[O:72].C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[N:82](CC)[C:71]([CH:10]([CH:20]([N:21](C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)=[O:72] 10=20;20,21=21"
